US08420849B2
2-(4-Trifluoromethoxyphenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (45 mL) solution of 2-(4-trifluoromethoxyphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (4.5 g, 12.6 mmol, purity: 85%) was cooled to −5° C., and to this solution, a chloroform (90 mL) solution of sulfuryl chloride (1.1 mL, 1.1 equivalent amounts) was dropwise added over a period of 30 minutes, followed by stirring at −15° C. for 1 hour. The temperature of the solution was raised to 0° C., and water (11 mL) was dropwise added, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a sodium hydroxide aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to obtain a crude product. The obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate) to give the desired product as a yellow solid (3.15 g, yield: 83%).

reactant | chloroform | 45 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-trifluoromethoxyphenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 12.6 mmol, 4.5 g | FC(OC1=CC=C(C=C1)C1SCC(=C1O)C(=O)C)(F)F | C13H11F3O3S
reactant | chloroform | 90 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 1.1 mL, 1.1 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 11 mL | O | H2O
product | 2-(4-Trifluoromethoxyphenyl)-3-hydroxy-4-methylcarbonyl thiophene | 3.15 g, yield: 83% | FC(OC1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C)(F)F | C13H9F3O3S
